US03933906
The mixture of 5.1 g of 4-(4-acetamidophenylamino)-3-(2-norborn-5-enylmethyl)-5-acetylsulfamoylbenzoic acid and 50 ml of 2N aqueous sodium hydroxide is refluxed for 2 hours under nitrogen. It is cooled, filtered, the filtrate acidified with glacial acetic acid to a pH of 4-5 and the precipitate formed filtered off. It is washed with water, dissolved in 40 ml of hot ethanol, the solution filtered and the filtrate diluted with water. After standing the precipitate formed is filtered off and again recrystallized from aqueous ethanol, to yield the 4-(4-aminophenylamino)-3-(2-norborn-5-enylmethyl)-5-sulfamoylbenzoic acid of the formula ##SPC10##

reactant | 4-(4-acetamidophenylamino)-3-(2-norborn-5-enylmethyl)-5-acetylsulfamoylbenzoic acid | 5.1 g | C(C)(=O)NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(NC(C)=O)(=O)=O)CC1C2C=CC(C1)C2 | C25H27N3O6S
solvent | sodium hydroxide | 2N, 50 ml | [OH-].[Na+]
product | 4-(4-aminophenylamino)-3-(2-norborn-5-enylmethyl)-5-sulfamoylbenzoic acid | NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)CC1C2C=CC(C1)C2 | C21H23N3O4S
